US08217043B2
e) [(6-Chloro-4-hydroxy-2-oxo-1-pyridin-3-ylmethyl-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-acetic acid
Prepared according to the glycinolysis condition used in Example 1 step d) from 6-chloro-4-hydroxy-2-oxo-1-pyridin-3-ylmethyl-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester (1.0 eq.) and sodium glycinate (5 eq.). ESI (m/z): 377 (M+H)+.

reactant | 6-chloro-4-hydroxy-2-oxo-1-pyridin-3-ylmethyl-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester | 1.0 eq. | COC(=O)C1=C(C=2N(N(C1=O)CC=1C=NC=CC1)C=C(C2)Cl)O | C15H12ClN3O4
reactant | sodium glycinate | 5 eq. | NCC(=O)[O-].[Na+]
product | [(6-Chloro-4-hydroxy-2-oxo-1-pyridin-3-ylmethyl-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carbonyl)-amino]-acetic acid | ClC=1C=C2N(N(C(C(=C2O)C(=O)NCC(=O)O)=O)CC=2C=NC=CC2)C1 | C16H13ClN4O5
